US04923868
2,4,5-Trifluorobenzoyl chloride
To a solution of 5.24 g of 2,4,5-trifluorobenzoic acid in 50 ml of ether containing two drops of N,N-dimethylformamide was added, under argon, oxalyl chloride dropwise over 30 minutes. Stirring was continued for an additional 30 minutes when gas evolution ceased. The ether was removed in vacuo and the residue vacuum distilled to give 5.07 g of the desired compound, bp 26°-27° C./0.75 mm.

reactant | 2,4,5-trifluorobenzoic acid | 5.24 g | FC1=C(C(=O)O)C=C(C(=C1)F)F | C7H3F3O2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | ether | 50 ml | CCOCC | C4H10O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2,4,5-Trifluorobenzoyl chloride | 5.07 g | FC1=C(C(=O)Cl)C=C(C(=C1)F)F | C7H2ClF3O
